US07858796B2
(96) 3-(1-{[3-(dimethylamino)propyl]sulfonyl}-4-piperidinyl)-5-{3-[(ethylamino) methyl]phenyl}-1H-indole-7-carboxamide
To a solution of 3-(1-{[3-(dimethylamino)propyl]sulfonyl}-4-piperidinyl)-5-(3-formylphenyl)-1H-indole-7-carboxamide (25 mg, 0.05 mmol) in MeOH/CH2Cl2 (1 mL/1 mL) was added 2M ethyl amine in THF (0.15 mL, 0.30 mmol). The reaction mixture was stirred at room temperature for 2 hours before NaBH4 (12 mg, 0.3 mmol) was added. The reaction mixture was stirred at room temperature overnight and evaporated all the solvent. The residue was purified by using a Gilson semi-preparative HPLC system, eluting with 10% B to 80% B, where A=H2O (0.1% trifluoroacetic acid) and B=CH3CN (0.1% trifluoroacetic acid) pumped at 25 mL/min to give the title compound (11 mg, 52%)

reactant | 3-(1-{[3-(dimethylamino)propyl]sulfonyl}-4-piperidinyl)-5-(3-formylphenyl)-1H-indole-7-carboxamide | 0.05 mmol, 25 mg | CN(CCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC(=CC=C1)C=O)C(=O)N)C | C26H32N4O4S
reactant | ethyl amine | 2M | C(C)N | C2H7N
reactant | THF | 0.30 mmol, 0.15 mL | C1CCOC1 | C4H8O
reactant | NaBH4 | 0.3 mmol, 12 mg | [BH4-].[Na+]
solvent | MeOH CH2Cl2 | 1 mL | CO.C(Cl)Cl
product | 3-(1-{[3-(dimethylamino)propyl]sulfonyl}-4-piperidinyl)-5-{3-[(ethylamino) methyl]phenyl}-1H-indole-7-carboxamide | 11 mg, 52% | CN(CCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC(=CC=C1)CNCC)C(=O)N)C | C28H39N5O3S
